US08802679B2
tert-Butyl (2-{methyl[3-(2-piperazin-1-ylpyrimidin-5-yl)benzyl]amino}-2-oxoethyl)carbamate (200 mg) was dissolved in DMF (4 ml), and dihydrofuran-2,5-dione (50 mg) and K2CO3 (125 mg) were added thereto, followed by stirring at room temperature for 1 hour. Water and 1 M hydrochloric acid were added thereto, followed by extraction with EtOAc. The organic layer was dried over MgSO4, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 4-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-4-oxobutanoic acid (168 mg).

reactant | tert-Butyl (2-{methyl[3-(2-piperazin-1-ylpyrimidin-5-yl)benzyl]amino}-2-oxoethyl)carbamate | 200 mg | CN(C(CNC(OC(C)(C)C)=O)=O)CC1=CC(=CC=C1)C=1C=NC(=NC1)N1CCNCC1 | C23H32N6O3
reactant | dihydrofuran-2,5-dione | 50 mg | O1C(CCC1=O)=O | C4H4O3
reactant | K2CO3 | 125 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-4-oxobutanoic acid | 168 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C(CCC(=O)O)=O | C27H36N6O6
